US07642361B2
(2-tri-n-butylstannyl-thiophen-3-yl)-carbamic acid tert-butyl ester
Add n-buthyl lithium (19.8 ml, 1.6 M/hexane) dropwise to a solution 2-Bromothiophen-3-yl-carbamic acid tert-butyl ester (4 g, 14.4 mmol) in anhydrous THF (35 ml) at −78° C. Stir the mixture for 45 minutes and add trimethyltin chloride (3.16 g, 15.8 mmol). Allow the reaction mixture to reach room temperature. Add brine (aprox. 50 mL) and extract with ethyl acetate (2×50 mL). Dry the combined organic layers over magnesium sulfate and concentrate under vacuum yielding 4.9 g of the title compound as colorless oil: 1H NMR (CDCl3, 300 MHZ) δ: 7.49 (d, J=4.8 Hz, 1H), 7.13 (d, J=4.4 Hz, 1H), 1.49 (s, 9H), 0.36 (s, 9H).

reactant | lithium | 1.6 M, 19.8 ml | [Li] | Li
reactant | 2-Bromothiophen-3-yl-carbamic acid tert-butyl ester | 14.4 mmol, 4 g | C(C)(C)(C)OC(NC1=C(SC=C1)Br)=O | C9H12BrNO2S
reactant | trimethyltin chloride | 15.8 mmol, 3.16 g | C[Sn](C)(C)Cl
reactant | THF | 35 ml | C1CCOC1 | C4H8O
product | (2-tri-n-butylstannyl-thiophen-3-yl)-carbamic acid tert-butyl ester | 4.9 g | C(C)(C)(C)OC(NC1=C(SC=C1)[Sn](CCCC)(CCCC)CCCC)=O | InChI=1S/C9H12NO2S.3C4H9.Sn/c1-9(2,3)12-8(11)10-7-4-5-13-6-7;3*1-3-4-2;/h4-5H,1-3H3,(H,10,11);3*1,3-4H2,2H3;
